Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / amoxicillin / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___: ___ thoracentesis

 
History of Present Illness:
___ with h/o LLL large cell carcinoma (IIIA, T3N2M0), s/p failed 
bronchoscopic debulking, coming in for L mainstem bronchus 
obstruction. 

In ___, pt presented to his doctor with abdominal pain 
and cramping (since resolved, pt does not know etiology) and was 
incidentally found to have a LLL mass. Work-up revealed large 
cell carcinoma with positive lymph nodes, no metastases. On 
___, his pulmonologist attempted to debulk the tumor 
broncoscopically but was not able to recannulize the L mainstem 
bronchus. Pt had planned on presenting to ___ last ___ but 
the snowstorm prevented him from coming. He describes some 
dyspnea on exertion that has caused him to become "an elevator 
person"--now can only go up one flight of stairs before becoming 
short of breath.
 
In the ED, initial vitals: 97.8F HR 73 BP 129/85 RR 18 100% RA 
- Labs were significant for WBC of 13.6, hgb of 9.8, INR of 1.3, 
alk phos of 161.
-CXR showed L hemithorax opacification with lefward shift of 
cardiomediastinal structures.
- CT chest showed LLL mass compressing L mainstem bronchus 
causing collapse of left lung, large L pleural effusion. 
- EKG shows flat T-waves in I, aVL.
- In the ED, s/he was seen by IP who planned to do L chest tube, 
and later bronchoscopy.

Upon arrival to the floor, pt denies any dyspnea at rest. 
Endorses some R "lung" pain (points to his midback) with no 
provoking or alleviating factors, comes and goes. Endorses rare 
dry cough, no sputum or hemoptysis. Otherwise denies fevers or 
chills, URI symptoms, dizziness or weakness, abdominal pain, 
nausea/vomiting, changes in urinary or bowel habits. 

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
Seizure disorder
Mild cognitive impairment
R knee problem, ?OA

ONCOLOGIC HISTORY:
___: Found to have left lung mass
___: Bronch at LRGH showed LMS obstruction
-- Biopsy showed poorly differentiated large cell ca w/ squamoid 
features >70% PD-L1  
___: PET scan showed avid lesions in rectum, LMS lung mass, 
4L LN, moderate l pleff
___: MRI brain showed no mets 
___: L thoracentesis 1060 cc cyto neg. Colonoscopy neg, 
biopsy results pending  
-Current clinical stage IIIA (T3N2M0)  
___: Flexible bronchoscopy, Cryo debridement, APC - showed 
mixed extrinsic & intrinsic tumor in LMS from posterior wall. 
Failed recanalization of LMS  

 
Social History:
___
Family History:
Grandmother, maternal uncle, and paternal uncle with lung ca
Father with prostate ca 

 
Physical Exam:
On Admission:
VITAL SIGNS - 98.0, 128/74, 74, 20, 96RA
GENERAL - No acute distress
HEENT - ___, oropharynx clear, no JVD appreciated.
CARDIAC - Regular rate and rhythm, no murmurs, rubs, or gallops.
LUNGS - Clear to auscultation on R, decreased air sounds 
diffusely in L lung fields.
ABDOMEN - Soft, non-tender, non-distended.
EXTREMITIES - 2+ pulses in all distal extremities. No clubbing. 
Trace edema in bilateral ankles.
NEUROLOGIC - Alert and oriented to person, place, time and 
event. Does not know or remember medical history and defers to 
mother. ___. EOM intact. Face strong symmetrically. Shoulder 
shrug ___ bilaterally. Tongue midline. Handgrip ___ bilaterally. 
Hip flexor ___ on R, ___ on L pt states is ___ pain. Ankle 
flexion/extension ___ bilaterally.

On Discharge:
VITALS:  97.7 107-128/74 73 18 96-98RA
GENERAL - No acute distress
HEENT - ___, oropharynx clear, no JVD appreciated.
CARDIAC - Regular rate and rhythm, no murmurs, rubs, or gallops.
LUNGS - Clear to auscultation on R, decreased air sounds 
diffusely in L lung fields.
ABDOMEN - Soft, non-tender, non-distended.
EXTREMITIES - 2+ pulses in all distal extremities. No clubbing. 
Trace edema in bilateral ankles.
NEUROLOGIC - Alert and oriented to person, place, time and 
event. Does not know or remember medical history and defers to 
mother. ___. Face symmetric, tongue midline. Moves all four 
extremities.
 
Pertinent Results:
On Admission:
___ 11:15AM BLOOD WBC-13.6* RBC-3.49* Hgb-9.8* Hct-30.7* 
MCV-88 MCH-28.1 MCHC-31.9* RDW-12.9 RDWSD-40.9 Plt ___
___ 11:15AM BLOOD Neuts-82.5* Lymphs-9.6* Monos-6.4 
Eos-0.6* Baso-0.4 Im ___ AbsNeut-11.26* AbsLymp-1.31 
AbsMono-0.87* AbsEos-0.08 AbsBaso-0.05
___ 11:15AM BLOOD ___ PTT-33.4 ___
___ 11:15AM BLOOD Glucose-90 UreaN-15 Creat-0.7 Na-136 
K-4.4 Cl-99 HCO3-21* AnGap-20
___ 11:15AM BLOOD ALT-19 AST-13 AlkPhos-161* TotBili-0.3
___ 11:36AM BLOOD Lactate-1.2

On Discharge:
___ 07:34AM BLOOD WBC-10.5* RBC-3.66* Hgb-10.3* Hct-31.5* 
MCV-86 MCH-28.1 MCHC-32.7 RDW-13.0 RDWSD-40.4 Plt ___
___ 07:34AM BLOOD ___ PTT-34.5 ___
___ 07:34AM BLOOD Glucose-85 UreaN-16 Creat-0.8 Na-135 
K-4.7 Cl-97 HCO3-21* AnGap-22*
___ 07:34AM BLOOD Calcium-9.6 Phos-4.0 Mg-2.3

Pleural fluid studies:
___ 04:00PM PLEURAL TNC-1603* RBC-___* Polys-8* Lymphs-62* 
Monos-2* Eos-11* Meso-17*
___ 04:00PM PLEURAL TotProt-5.2 LD(LDH)-339 Albumin-3.0 
___ Misc-BODY FLUID

Microbiology: 
___ Pleural Fluid
   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

Pathology:
___ Pleural fluid cytology:
Pleural fluid:
NEGATIVE FOR MALIGNANT CELLS.
- Reactive mesothelial cells, neutrophils, histiocytes, 
lymphocytes, scattered eosinophils.

Imaging:
___ ___ thoracentesis:
IMPRESSION:    
Successful CT-guided aspiration of the loculated left pleural 
effusion.  
Approximately 1 liter of serosanguineous fluid was removed and 
sent for 
cytology and microbiology evaluation including other labs. 

___ CT Chest with contrast:
IMPRESSION:  
Large mass in the left lower lobe, concerning for primary 
malignancy, with 
associated compression and collapse of the left mainstem 
bronchus.  Large left pleural effusion.  Near complete left 
upper lobe atelectasis with mild leftward shift of 
cardiomediastinal silhouette.  Prominent mediastinal lymph node 
to 14 mm in short axis.  Further details provided above. 

___ CXR:
IMPRESSION:    
Left hemithorax opacification with leftward shift of 
cardiomediastinal 
structures, concerning for left lung collapse.  Please correlate 
clinically and with prior imaging studies if available.  
Consider CT to further assess if clinically indicated. 

 
Brief Hospital Course:
___ with h/o LLL large cell carcinoma (IIIA, T3N2M0), s/p failed 
bronchoscopic debulking, who presented for L mainstem bronchus 
obstruction. 

#Large Cell Lung Cancer: Patient had been planned to have a 
bronchoscopy by IP in an attempt to relieve obstruction. 
However, it was felt that there was a chance that his tumor 
would be resectable. He underwent thoracentesis by ___ on 
___ with removal of 1 liter of serosanguineous fluid, and 
pathology was pending at discharge. Patient had been planned for 
a bronchoscopy but left AMA before this despite extensive 
discussions with patient and his mother. After patient left, 
there were discussions between the primary team, IP and his 
outpatient pulmonologist. It was felt that there was a 
possibility that patient would potentially be a candidate for 
surgery and that surgery could potentially be curative. However, 
there was some thought that the tumor was abutting the 
mediastinum and therefore may not be curatively resected. There 
was a plan for patient to come back to ___ for 
multidisciplinary evaluation for possible surgery, although the 
exact date of this was pending.

#Seizure disorder: Patient was continued on home lamictal while 
hospitalized.

Transitional issues:
-Patient should follow up with outpatient PCP and ___ should be considered for bronchoscopy by IP in the 
future

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 150 mg PO BID 
2. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1.  LamoTRIgine 150 mg PO BID  
2.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Non small-cell lung cancer

Secondary:
Seizure disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ ___ ___ to 
have a procedure to open up your airways. You had a procedure to 
remove fluid from your lungs, but you left before you had the 
procedure to open your airways. We certainly recommend that you 
stay, but understand that you would like to leave. You should 
follow up with Dr. ___ your primary care doctor after you 
leave.

It was a pleasure to help care for you during this 
hospitalization.

Sincerely,
Your ___ Team
 
Followup Instructions:
___